US09353096B2
(R)-2-(4-chloro-3-fluorophenyl)oxirane (1.66 g, 9.62 mmol) was added dropwise to ethanolamine (3.5 mL, 53.9 mmol). The (R)-2-(4-chloro-3-fluorophenyl)oxirane residue was rinsed with 4 mL of THF and this was added to the reaction mixture. The clear solution was stirred at room temperature for 48 h. TLC indicated complete consumption of the starting material. The mixture was treated with water (30 mL) under ice bath and then extracted with ethyl acetate (40 mL). The aqueous layer was extracted with ethyl acetate (30 mL). The combined organic phase was washed with water and brine, dried and concentrated in vacuo to afford (R)-1-(4-chloro-3-fluorophenyl)-2-(2-hydroxyethylamino)ethanol (2.06 g) as a colorless oil. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 2.54 (br. s., 3H) 2.64-2.77 (m, 1H) 2.84 (td, J=5.00, 3.59 Hz, 2H) 2.93 (dd, J=12.27, 3.59 Hz, 1H) 3.72 (t, J=5.10 Hz, 2H) 4.72 (dd, J=8.88, 3.59 Hz, 1H) 7.08 (dd, J=8.31, 1.89 Hz, 1H) 7.20 (dd, J=9.82, 1.89 Hz, 1H) 7.31-7.43 (m, 1H).

reactant | (R)-2-(4-chloro-3-fluorophenyl)oxirane | 9.62 mmol, 1.66 g | ClC1=C(C=C(C=C1)[C@H]1OC1)F | C8H6ClFO
reactant | ethanolamine | 53.9 mmol, 3.5 mL | C(O)CN | C2H7NO
product | (R)-1-(4-chloro-3-fluorophenyl)-2-(2-hydroxyethylamino)ethanol | 2.06 g | ClC1=C(C=C(C=C1)[C@H](CNCCO)O)F | C10H13ClFNO2
